US06479476B1
4-chloro-11β-[4-(3-hydroxypropyl)phenyl]estra-4.9-diene-3-one
To a solution of 11.9 g of 11β-[4-(3-hydroxypropyl)phenyl]-estra-4.9-diene -3,17-dione prepared to preparation 1 in 100 ml of DMF, under inert atmosphere and at 60° C., 4.93 g of N-chloro succinimide is added and stirred for 10 mn at this temperature. It is poured into water, drawn off, washed, dried, evaporated under reduced pressure until 16.2 g of raw expected product is obtained that is purified by chromatography by eluting with the compound CH2Cl2/Acetone 85/15. 9.34 g of pure expected product is obtained.

reactant | 11β-[4-(3-hydroxypropyl)phenyl]-estra-4.9-diene -3,17-dione | 11.9 g | OCCCC1=CC=C(C=C1)[C@@H]1C2=C3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C27H32O3
reactant | N-chloro succinimide | 4.93 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-chloro-11β-[4-(3-hydroxypropyl)phenyl]estra-4.9-diene-3-one | 9.34 g | ClC1=C2CC[C@H]3[C@@H]4CCC[C@@]4(C)C[C@@H](C3=C2CCC1=O)C1=CC=C(C=C1)CCCO | C27H33ClO2
